US04800207
a. 1-(4-methylphenyl)-3-(2-pyrrolyl)-2-propen-1-one
To a solution of 10.1 g (0.18 mole) of potassium hydroxide in 2.18 L of water was added 176.4 g (1.32 mole) of 4-methylacetophenone and 50 g (0.53 mole) of pyrrole-2-carboxaldehyde. The mixture was heated to 40°-45° C. with mechanical stirring under a nitrogen atmosphere overnight. The solid precipitate was filtered, washed with water and 2-propanol, and air dried to give 42.1 g (38% yield) of the title compound as a solid, mp 158.5°-159.5° C.

reactant | potassium hydroxide | 0.18 mole, 10.1 g | [OH-].[K+]
reactant | 4-methylacetophenone | 1.32 mole, 176.4 g | CC1=CC=C(C=C1)C(=O)C | C9H10O
reactant | pyrrole-2-carboxaldehyde | 0.53 mole, 50 g | N1C(=CC=C1)C=O | C5H5NO
solvent | water | 2.18 L | O | H2O
product | 1-(4-methylphenyl)-3-(2-pyrrolyl)-2-propen-1-one | 42.1 g, 38% yield | CC1=CC=C(C=C1)C(C=CC=1NC=CC1)=O | C14H13NO
